* Subcircuit 5bit_DAC
.subckt 5bit_DAC /vrefh /vrefl /d0 /d1 /d2 /d3 /d4 /vdd /vout 
* c:\fossee\esim\library\subcircuitlibrary\5bit_dac\5bit_dac.cir

.options wnflag=1

.include switch.sub
.include 4bit_DAC.sub
x1 /vrefh net-_x1-pad2_ /d0 /d1 /d2 /d3 /vdd net-_x1-pad8_ 4bit_DAC
x2 net-_x1-pad2_ /vrefl /d0 /d1 /d2 /d3 /vdd net-_x2-pad8_ 4bit_DAC
x3 /d4 /vdd net-_x1-pad8_ net-_x2-pad8_ /vout switch
* Control Statements

.ends 5bit_DAC
